US08071592B2
(b) 2-[(E)-2-Phenylethenyl]-5-(tetrahydro-2H-pyran-2-yloxy)-4-pyrimidinyl Trifluoromethanesulfonate
To a suspension of 2-[(E)-2-phenylethenyl]-5-(tetrahydro-2H-pyran-2-yloxy)-4(1H)-pyrimidinone (2.04 g, 6.84 mmol) in DCM (25 mL) was added pyridine (1.22 mL, 15.05 mmol). After cooling to −78° C., triflic anhydride (1.38 mL, 8.2 mmol) was slowly added via dropwise addition. The reaction was maintained at −78° C. for 10 minutes, after which time the cooling bath was replaced with a ice-water bath and the reaction was stirred for an additional 0.5 h. The reaction mixture was poured into water and the aqueous phase was extracted with DCM. The organic phase was then washed with water, saturated aq. NaHCO3, and brine. The organic phase was dried over Na2SO4, filtered, and concentrated under vacuum to provide a dark reddish oil which was used directly in the next step.

reactant | 2-[(E)-2-phenylethenyl]-5-(tetrahydro-2H-pyran-2-yloxy)-4(1H)-pyrimidinone | 6.84 mmol, 2.04 g | C1(=CC=CC=C1)/C=C/C=1NC=C(C(N1)=O)OC1OCCCC1 | C17H18N2O3
reactant | pyridine | 15.05 mmol, 1.22 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 8.2 mmol, 1.38 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-[(E)-2-Phenylethenyl]-5-(tetrahydro-2H-pyran-2-yloxy)-4-pyrimidinyl Trifluoromethanesulfonate | FC(S(=O)(=O)OC1=NC(=NC=C1OC1OCCCC1)\C=C\C1=CC=CC=C1)(F)F | C18H17F3N2O5S
